US07053212B2
Step B: Cyclohexanecarboxylic acid (3-fluoro-benzyl)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amide
To a solution of cyclohexanecarboxylic acid (4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-amide (0.250 g, 0.79 mmol) in 5 mL N,N-dimethylformamide at 0° C. was added sodium hydride (0.041 g of a 60% dispersion in mineral oil, 1.03 mmol). The reaction mixture was stirred at 0° C. for 5 minutes and 3-fluorobenzyl bromide (0.117 mL, 0.95 mmol) was added. The reaction mixture was stirred at room temperature for 24 hr. and water was added. The aqueous solution was washed with ethyl acetate (2×). The combined organic layers were dried (magnesium sulfate), filtered, and concentrated. Medium pressure silica gel chromatography (methylene chloride to 5% methanol/methylene chloride) afforded the title compound. MS 425.2 (M+1)+

reactant | cyclohexanecarboxylic acid (4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-amide | 0.79 mmol, 0.250 g | N1(CCCC1)CCOC1=CC=C(C=C1)NC(=O)C1CCCCC1 | C19H28N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | 3-fluorobenzyl bromide | 0.95 mmol, 0.117 mL | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Cyclohexanecarboxylic acid (3-fluoro-benzyl)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amide | FC=1C=C(CN(C(=O)C2CCCCC2)C2=CC=C(C=C2)OCCN2CCCC2)C=CC1 | C26H33FN2O2
